US08357679B2
A: 1-(4-(4-(4-(2-(tert-Butyldimethylsilyloxy)-1,1,1,3,3,3-hexafluoropropan-2-yl)benzyl)piperazine-1-carbonyl)-2-fluorophenyl)-3-(pyridin-2-yl)urea
(4-Amino-3-fluorophenyl)(4-(4-(2-(tert-butyldimethylsilyloxy)-1,1,1,3,3,3-hexa-fluoropropan-2-yl)benzyl)piperazin-1-yl)methanone (200 mg, 0.337 mmol) and 4-nitro-phenyl carbonochloridate (0.337 mmol, 0.068 g) were combined and stirred at room temperature for 1 hour in dichloromethane (1 mL). Pyridin-2-amine (0.674 mmol, 0.063 g) and triethylamine (0.674 mmol, 0.094 mL, 0.068 g) were added and the reaction mixture heated using microwave irradiation to 120° C. for 10 minutes. The reaction mixture was purified by silica column chromatography (eluant dichloromethane/methanol 0% to 2%) to afford the title compound (69 mg). MS (ESI) m/z 714.2 [M+H]+

reactant | (4-Amino-3-fluorophenyl)(4-(4-(2-(tert-butyldimethylsilyloxy)-1,1,1,3,3,3-hexa-fluoropropan-2-yl)benzyl)piperazin-1-yl)methanone | 0.337 mmol, 200 mg | NC1=C(C=C(C=C1)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O[Si](C)(C)C(C)(C)C)F | C27H34F7N3O2Si
reactant | 4-nitro-phenyl carbonochloridate | 0.337 mmol, 0.068 g | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
reactant | Pyridin-2-amine | 0.674 mmol, 0.063 g | N1=C(C=CC=C1)N | C5H6N2
reactant | triethylamine | 0.674 mmol, 0.094 mL, 0.068 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 1-(4-(4-(4-(2-(tert-Butyldimethylsilyloxy)-1,1,1,3,3,3-hexafluoropropan-2-yl)benzyl)piperazine-1-carbonyl)-2-fluorophenyl)-3-(pyridin-2-yl)urea | 69 mg | [Si](C)(C)(C(C)(C)C)OC(C(F)(F)F)(C(F)(F)F)C1=CC=C(CN2CCN(CC2)C(=O)C2=CC(=C(C=C2)NC(=O)NC2=NC=CC=C2)F)C=C1 | C33H38F7N5O3Si
